US09403798B2
4-[4-(2,4-Difluorophenyl)piperazin-1-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one
The synthesis was performed using 4-[4-(2,4-difluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one (189 mg, 0.65 mmol) synthesized in Reference Synthesis Example 86 and [3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate (413 mg, 1.29 mmol) synthesized in Reference Synthesis Example 15 in a similar manner to Synthesis Example 1 to obtain the title compound (21 mg, yield: 7.4%).

reactant | 4-[4-(2,4-difluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 0.65 mmol, 189 mg | FC1=C(C=CC(=C1)F)N1CCN(CC1)C1=NC(NC=N1)=O | C13H13F2N5O
reactant | [3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate | 1.29 mmol, 413 mg | CC1=CC=C(C=C1)S(=O)(=O)OCN1N=C(C=C1)C(F)(F)F | C12H11F3N2O3S
product | 4-[4-(2,4-Difluorophenyl)piperazin-1-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one | 21 mg, yield: 7.4% | FC1=C(C=CC(=C1)F)N1CCN(CC1)C1=NC(N(C=N1)CN1N=C(C=C1)C(F)(F)F)=O | C18H16F5N7O
